US06703392B2
2-[1-(Diphenyl-methyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-methoxy-benzyl)-acetamide:
prepared by reaction of 1-(Diphenyl-methyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-methoxy-benzylamine

reactant | 1-(Diphenyl-methyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline | C1(=CC=CC=C1)C(C1NCCC2=C(C=CC(=C12)OC)OC)C1=CC=CC=C1 | C24H25NO2
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-methoxy-benzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
product | 2-[1-(Diphenyl-methyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-methoxy-benzyl)-acetamide | C1(=CC=CC=C1)C(C1N(CCC2=C(C=CC(=C12)OC)OC)CC(=O)NCC1=C(C=CC=C1)OC)C1=CC=CC=C1 | C34H36N2O4
